US09334267B2
6-Bromo-N-methylpyrido[2,3-d]pyrimidin-2-amine
Treat a solution of 5-bromo-2-fluoropyridine-3-carboxaldehyde (0.50 g, 2.451 mmol) and 1-methylguanidine hydrochloride (0.322 g, 2.94 mmol) in acetonitrile (20 mL) with TEA (0.947 mL, 7.35 mmol) and heat to 180° C. in the microwave for 15 min. Concentrate the mixture to dryness, treat the residue with DCM and wash with H2O, then brine. Dry the organic layer over Na2SO4, concentrate to dryness and purify via silica gel chromatography (20-100% EtOAc/Hexanes) to afford the title compound (140 mg, 24% yield). MS (m/z): 241.0 (M+1).

reactant | 5-bromo-2-fluoropyridine-3-carboxaldehyde | 2.451 mmol, 0.50 g | BrC=1C=C(C(=NC1)F)C=O | C6H3BrFNO
reactant | 1-methylguanidine hydrochloride | 2.94 mmol, 0.322 g | Cl.CNC(=N)N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 6-Bromo-N-methylpyrido[2,3-d]pyrimidin-2-amine | 140 mg, 24% yield | BrC1=CC2=C(N=C(N=C2)NC)N=C1 | C8H7BrN4
